US07338960B2
(2E)-3-[4-Hydroxy-2-(methyloxy)phenyl]-2-propenoic acid
To a stirring solution of 4-hydroxy-2-methoxybenzaldehyde (1.02 g, 6.70 mmol) and malonic acid (728 mg, 7.00 mmol) in pyridine (9.2 mL) at ambient temperature under nitrogen was added piperidine (0.20 mL, 2.02 mmol) drop-wise. The mixture was then heated to 80° C. over 20 mins and then stirred at this temperature for 2 h. The reaction was then quenched with water (50 mL), acidified to pH 1 with concentrated HCl and then partitioned with EtOAc (50 mL) and the layers separated. The aqueous layer was re-extracted with EtOAc (50 mL) and the combined organic layer washed with brine (80 mL) and then concentrated under vacuum to give a bright yellow solid. Purification by SPE (silica, 20 g cartridge) eluting with cyclohexane:EtOAc (gradient 25:1 to 0:1) afforded the title compound (674 mg).

reactant | 4-hydroxy-2-methoxybenzaldehyde | 6.70 mmol, 1.02 g | OC1=CC(=C(C=O)C=C1)OC | C8H8O3
reactant | malonic acid | 7.00 mmol, 728 mg | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 2.02 mmol, 0.20 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 9.2 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-[4-Hydroxy-2-(methyloxy)phenyl]-2-propenoic acid | 674 mg | OC1=CC(=C(C=C1)/C=C/C(=O)O)OC | C10H10O4
